US07632857B2
(4′-Ethanesulfonyl-3-fluoro-biphenyl-4-yl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone
The title compound is prepared in a manner substantially analogous to Procedure SS starting from (4-bromo-2-fluoro-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone and 4-Ethylsulfonyl benzene boronic acid. MS (M+H) 445.2

reactant | (4-bromo-2-fluoro-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | BrC1=CC(=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1)F | C16H20BrFN2O
reactant | 4-Ethylsulfonyl benzene boronic acid | C(C)S(=O)(=O)C1=CC=C(C=C1)B(O)O | C8H11BO4S
product | (4′-Ethanesulfonyl-3-fluoro-biphenyl-4-yl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | C(C)S(=O)(=O)C1=CC=C(C=C1)C1=CC(=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1)F | C24H29FN2O3S
